US07378448B2
Combine N-{4-[4-(2-amino-ethyl)-phenoxy]-phenyl}-acetamide (100 mg, 0.37 mmol), benzaldehyde (47 mg, 0.44 mmol), 3 Å molecular sieves (300 mg), and methanol (3 mL) and stir overnight at room temperature. Filter off the sieves then add sodium borohydride (28 mg) to the reaction and stirred at room temperature for 2 hours. Concentrate on a rotary evaporator and purified by radial chromatography on silica gel eluting with 10% conc. ammonium hydroxide in ethanol and chloroform to yield N-{4-[4-(2-benzylamino-ethyl)-phenoxy]-phenyl}-acetamide, (61 mg): 1H NMR (CDCl3, 300.00 MHz): 7.51-6.88 (m, 13H), 3.84 (s, 2H), 2.97-2.78 (m, 4H), 2.21 (s, 3H), 1.55 (s, 1H); HPLC=99% (5/95 to 95/5 ACN/(0.1% TFA in water) over 10 minutes, Zorbax SB-Phenyl 4.6 mm×15 cm×5 micron, λ=254 nM.

reactant | N-{4-[4-(2-amino-ethyl)-phenoxy]-phenyl}-acetamide | 0.37 mmol, 100 mg | NCCC1=CC=C(OC2=CC=C(C=C2)NC(C)=O)C=C1 | C16H18N2O2
reactant | benzaldehyde | 0.44 mmol, 47 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 3 mL | CO | CH4O
product | N-{4-[4-(2-benzylamino-ethyl)-phenoxy]-phenyl}-acetamide | 61 mg | C(C1=CC=CC=C1)NCCC1=CC=C(OC2=CC=C(C=C2)NC(C)=O)C=C1 | C23H24N2O2
